US06420418B1
2,5-Dimethyl-3-oxo-2-tetrahydrofuroic Acid
2-Methyl-3-oxo-2-tetrahydrofuroic acid, t-butyl ester (100 mg, 0.5 mmol) was treated with 1/1 trifluoroacetic acid/dichloromethane at 0° C. The reaction mixture was stirred at room temperature until all starting material had disappeared by TLC. The excess trifluoroacetic acid was removed via a stream of nitrogen and the residue was coevaporated with dichloromethane and purified via a silica gel SepPak plug. This 30 provided 49 mg of the desired product (68%), homogeneous by TLC (Rf=0.1 in 4/1 hexane/ethyl acetate).

reactant | 2-Methyl-3-oxo-2-tetrahydrofuroic acid, t-butyl ester | 0.5 mmol, 100 mg | CC1(OCCC1=O)C(=O)OC(C)(C)C | C10H16O4
reactant | trifluoroacetic acid dichloromethane | FC(C(=O)O)(F)F.ClCCl
product | 2,5-Dimethyl-3-oxo-2-tetrahydrofuroic Acid | 49 mg, 68% | CC1(OC(CC1=O)C)C(=O)O | C7H10O4
